US05233035
After 870 mg (0.69 mmol) of p-methoxybenzyl 7β-[(Z)-2-(2-tritylamino-4-thiazolyl)-2-[[(R S)-(diphenylmethoxycarbonyl)(3,4-diacetoxyphenyl)methoxy]imino]acetamido]-3-[-2-(5-thiazolyl)vinyl]-3-cephem-4-carboxylate was dissolved in 9 ml of methylene chloride and 4 ml of anisole, 16 ml of trifluoroacetic acid was added therein under ice-cooling and the reaction solution was reacted for 90 min. as it was. The residue obtained by evaporating off trifluoroacetate under the reduced pressure was powdered with ethyl ether-hexane (1:1). The powder obtained by filtering off was further dissolved in 45 ml of trifluoroacetic acid under ice-cooling, and then, 11 ml of water was added therein, and the reaction was effected for 3 hrs. at the room temperature. The residue obtained by evaporating off trifluoroacetic acid and water under the reduced pressure was powdered by adding ethyl ether, and filtered off to give 404 mg of 7β-[(Z)-2-(2-amino-4-thiazolyl)-2-[[(R S)-(carboxy) (3,4 -diacetoxyphenyl)methoxy]imino]acetamido]-3-[-2-(5-thiazolyl)vinyl]-3-cephem-4-carboxylic acid.trifluoroacetate, a crude product.

reactant | p-methoxybenzyl 7β-[(Z)-2-(2-tritylamino-4-thiazolyl)-2-[[(R S)-(diphenylmethoxycarbonyl)(3,4-diacetoxyphenyl)methoxy]imino]acetamido]-3-[-2-(5-thiazolyl)vinyl]-3-cephem-4-carboxylate | 0.69 mmol, 870 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=CC2=CN=CS2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C69H56N6O12S3
reactant | trifluoroacetic acid | 16 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 4 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[(Z)-2-(2-amino-4-thiazolyl)-2-[[(R S)-(carboxy) (3,4 -diacetoxyphenyl)methoxy]imino]acetamido]-3-[-2-(5-thiazolyl)vinyl]-3-cephem-4-carboxylic acid | 404 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=CC2=CN=CS2)C(=O)O)C1=O)=N/OC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)C(=O)O | C29H24N6O11S3
